US06825375B2
(1RS,5RS,6RS)-6-fluoro-2-oxobicyclo[3.1.0]hexane-6-carboxylic acid in an amount of 1.0 g was dissolved in 5.0 mL of N,N-dimethylformamide, and 0.58 g of sodium hydrogencarbonate and 1.5 mL of ethyl iodide were added thereto. The mixture was stirred overnight at 50° C. The reaction mixture was poured into 1M hydrochloric acid, followed by extractions with ethyl acetate three times. The organic layer was dried over anhydrous sodium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (silica gel: Wako gel C200 (produced by Wako Pure Chemical Industries Ltd.), eluent: hexane-ethyl acetate=8:1), thereby yielding 1.1 g of (1RS,5RS,6RS)ethyl 6-fluoro-2-oxobicyclo[3.1.0]hexane-6-carboxylate.

reactant | (1RS,5RS,6RS)-6-fluoro-2-oxobicyclo[3.1.0]hexane-6-carboxylic acid | FC1(C2CCC(C12)=O)C(=O)O | C7H7FO3
reactant | sodium hydrogencarbonate | 0.58 g | C(O)([O-])=O.[Na+]
reactant | ethyl iodide | 1.5 mL | C(C)I | C2H5I
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | (1RS,5RS,6RS)ethyl 6-fluoro-2-oxobicyclo[3.1.0]hexane-6-carboxylate | 1.1 g | FC1(C2CCC(C12)=O)C(=O)OCC | C9H11FO3
